US08440689B2
C. Methyl 6-chloro-4-cyano-2-(1-ethyl-1H-pyrazol-4-yl)nicotinate
A solution of 4-cyano-2-(1-ethyl-1H-pyrazol-4-yl)-3-(methoxycarbonyl)pyridine 1-oxide (210 mg, 0.771 mmol) in POCl3 (2 mL) was heated at 80° C. for 3-4 h. The mixture was concentrated and purified by flash chromatography (SiO2, 10-100% EtOAc in Hexane). The fractions were collected and the solvent was removed in vacuo to give the title compound (201 mg, 90%).

reactant | 4-cyano-2-(1-ethyl-1H-pyrazol-4-yl)-3-(methoxycarbonyl)pyridine 1-oxide | 0.771 mmol, 210 mg | C(#N)C1=C(C(=[N+](C=C1)[O-])C=1C=NN(C1)CC)C(=O)OC | C13H12N4O3
reactant | POCl3 | 2 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | Methyl 6-chloro-4-cyano-2-(1-ethyl-1H-pyrazol-4-yl)nicotinate | 201 mg, 90% | ClC1=NC(=C(C(=O)OC)C(=C1)C#N)C=1C=NN(C1)CC | C13H11ClN4O2
